* G:\My Drive\Graduate Reserach\LTSpice\SC Fibb\SC_FIB_AURA_R.asc
M1 N001 NC_01 N009 N009 NMOS
M2 N009 NC_02 N015 N015 NMOS
M3 N005 NC_03 N001 N001 NMOS
M4 N015 NC_04 N024 N024 NMOS
M5 N024 NC_05 0 0 NMOS
M6 0 NC_06 N028 N028 NMOS
M7 N002 NC_07 N012 N012 NMOS
M8 N012 NC_08 N015 N015 NMOS
M9 N015 NC_09 N020 N020 NMOS
M10 N020 NC_10 N025 N025 NMOS
M11 N004 NC_11 N007 N007 NMOS
M12 N007 NC_12 0 0 NMOS
M13 N003 NC_13 N004 N004 NMOS
M14 N001 NC_14 N022 N022 NMOS
M15 N022 NC_15 N027 N027 NMOS
M16 N027 NC_16 N026 N026 NMOS
V1 N010 N018 12
V2 N013 N015 4
V3 N017 0 4
R1 N001 N013 5m
R2 N015 N017 5m
R3 N010 N011 5m
R4 N018 N019 5m
L1 N011 N012 100n
L2 N019 N020 100n
C1 N009 N008 5µ
C2 N023 N024 5µ
C3 N006 N007 2.5µ
C4 N022 N021 2.5µ
C5 N001 N014 2µ
C6 N015 N016 2µ
R5 N008 N005 3m
R6 N006 N003 3m
R7 N028 N023 3m
R8 N026 N021 3m
R9 N014 N015 2m
R10 N016 0 2m
R11 N003 N002 1m
R12 N005 N004 1m
R13 N026 N025 1m
R14 N028 N027 1m
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\jb\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1
.backanno
.end
